### PR TITLE
[Merged by Bors] - chore: tag (almost) all `mono` lemmas as `@[gcongr]`

### PR DESCRIPTION
**Pull request by YaelDillies**
The few exceptions are the lemmas about `Set` and `Finset` which would make `gcongr` use `≤` instead of `⊆`, and `measure_mono_ae` which feels like a bigger than I want to undertake here, as well as a few lemmas that `gcongr` doesn't want to eat.

From AddCombi

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Monotonicity/Attr.lean [hunk 1]
```diff
@@ -8,7 +8,7 @@ module
 public import Mathlib.Init
 public meta import Lean.LabelAttribute
 
-/-! # The @[mono] attribute -/
+/-! # The @[gcongr, mono] attribute -/
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Monotonicity/Attr.lean]:
```suggestion
/-! # The @[mono] attribute -/
```

File: Mathlib/Tactic/Monotonicity/Attr.lean [hunk 2]
```diff
@@ -24,7 +24,7 @@ syntax (name := mono) "mono" (ppSpace mono.side)? : attr
 
 -- The following is inlined from `register_label_attr`.
 /- TODO: currently `left`/`right`/`both` is ignored, and e.g. `@[mono left]` means the same as
-`@[mono]`. No error is thrown by e.g. `@[mono left]`. -/
+`@[gcongr, mono]`. No error is thrown by e.g. `@[mono left]`. -/
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Monotonicity/Attr.lean]:
```suggestion
`@[mono]`. No error is thrown by e.g. `@[mono left]`. -/
```

File: Mathlib/Tactic/Monotonicity/Basic.lean [hunk 3]
```diff
@@ -11,7 +11,7 @@ public import Mathlib.Tactic.Monotonicity.Attr
 /-! # Monotonicity tactic
 
 The tactic `mono` applies monotonicity rules (collected through the library by being tagged
-`@[mono]`).
+`@[gcongr, mono]`).
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Monotonicity/Basic.lean]:
```suggestion
`@[mono]`).
```

File: MathlibTest/Monotonicity.lean [hunk 4]
```diff
@@ -147,7 +147,7 @@ example {x y z w : ℕ} : true := by
 --     apply le_trans h.left h'.left,
 --     apply xs_ih _ h.right h'.right, }
 
--- @[mono]
+-- @[gcongr, mono]
```
Comment (SnirBroshi) [inline MathlibTest/Monotonicity.lean]:
```suggestion
-- @[mono]
```

File: MathlibTest/Monotonicity.lean [hunk 5]
```diff
@@ -158,7 +158,7 @@ example {x y z w : ℕ} : true := by
 --     revert h; apply and.imp_right
 --     apply xs_ih
 
--- @[mono]
+-- @[gcongr, mono]
```
Comment (SnirBroshi) [inline MathlibTest/Monotonicity.lean]:
```suggestion
-- @[mono]
```

File: MathlibTest/Monotonicity.lean [hunk 6]
```diff
@@ -202,14 +202,14 @@ example {x y z w : ℕ} : true := by
 -- def P (x : ℕ) := 7 ≤ x
 -- def Q (x : ℕ) := x ≤ 7
 
--- @[mono]
+-- @[gcongr, mono]
```
Comment (SnirBroshi) [inline MathlibTest/Monotonicity.lean]:
```suggestion
-- @[mono]
```

File: MathlibTest/Monotonicity.lean [hunk 7]
```diff
@@ -202,14 +202,14 @@ example {x y z w : ℕ} : true := by
...
 -- lemma P_mono {x y : ℕ}
 --     (h : x ≤ y) :
 --     P x → P y := by
 --   intro h'
 --   apply le_trans h' h
 
--- @[mono]
+-- @[gcongr, mono]
```
Comment (SnirBroshi) [inline MathlibTest/Monotonicity.lean]:
```suggestion
-- @[mono]
```

**Comment by grunweg** [comment]
Seems reasonable to me. Are there any potential pitfalls to tagging a lemma as `@[gcongr]` that is accepted? (`@[gcongr]` warns if a lemma is not a gcongr lemma, so that cannot happen.) Let's have a second opinion.
maintainer merge

**Comment by YaelDillies** [comment]
> Are there any potential pitfalls to tagging a lemma as `@[gcongr]` that is accepted?

Yes, like ending up with an `\le` goal instead of a `\subset` one, see the PR description.

**Comment by Vierkantor** [comment]
Note that this might conflict with #38318 becoming stricter about `gcongr` lemmas that `grw` can't use. I think this can go in first since that PR still needs a dependent PR to be merged.

**Review by Vierkantor — APPROVED** [review]
Looks good to me, thanks!

What do you think, as a followup, of making `@[mono]` imply `@[gcongr]` unless explicitly deactivated (by a syntax along the lines of `@[mono only]`)?

bors r+

**Comment by YaelDillies** [comment]
I was thinking we could delete `mono` completely instead?

**Comment by JovanGerb** [comment]
Note that `toAddSubGroup_le` and `toAddSubGroup_mono` are now both tagged with `gcongr`, which is redundant.

I guess we would ideally have a simpNF like linter to catch this duplication, but maybe that is overkill.

File: Mathlib/Algebra/Module/Submodule/Basic.lean [hunk 8]
```diff
@@ -123,15 +123,15 @@ variable (p p' : Submodule R M)
...
 theorem toAddSubgroup_strictMono : StrictMono (toAddSubgroup : Submodule R M → AddSubgroup M) :=
   fun _ _ => id
 
 @[gcongr]
 theorem toAddSubgroup_le : p.toAddSubgroup ≤ p'.toAddSubgroup ↔ p ≤ p' :=
   Iff.rfl
 
-@[mono]
+@[gcongr, mono]
 theorem toAddSubgroup_mono : Monotone (toAddSubgroup : Submodule R M → AddSubgroup M) :=
```
Comment (JovanGerb) [inline Mathlib/Algebra/Module/Submodule/Basic.lean:135]: This one

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 9]
```diff
@@ -41,11 +41,11 @@ theorem toSubsemiring_le_toSubsemiring {P₁ P₂ : RingPreordering R} :
...
     P₁.toSubsemiring < P₂.toSubsemiring ↔ P₁ < P₂ := .rfl
 
-@[mono]
+@[gcongr, mono]
 theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
   fun _ _ => id
 
-@[mono]
+@[gcongr, mono]
 theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
```
Comment (JovanGerb) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:49]: These are similarly redundant, given the above `gcongr` tags

File: Mathlib/Analysis/SpecialFunctions/Sigmoid.lean [hunk 10]
```diff
@@ -97,7 +97,7 @@ lemma sigmoid_lt_iff {a b : ℝ} : sigmoid a < sigmoid b ↔ a < b := sigmoid_st
 @[gcongr]
 lemma sigmoid_lt {a b : ℝ} : a < b → sigmoid a < sigmoid b := sigmoid_lt_iff.mpr
 
-@[mono]
+@[gcongr, mono]
 lemma sigmoid_monotone : Monotone sigmoid := sigmoid_strictMono.monotone
```
Comment (JovanGerb) [inline Mathlib/Analysis/SpecialFunctions/Sigmoid.lean:101]: Here is some redundancy as well.

File: Mathlib/RingTheory/Localization/Submodule.lean [hunk 11]
```diff
@@ -184,7 +184,7 @@ theorem coeSubmodule_le_coeSubmodule {I J : Ideal R} :
     coeSubmodule K I ≤ coeSubmodule K J ↔ I ≤ J :=
   IsLocalization.coeSubmodule_le_coeSubmodule le_rfl
```
Comment (JovanGerb) [inline Mathlib/RingTheory/Localization/Submodule.lean:185]: This one could have been tagged with `gcongr` also, I don't see why you skipped this one.

**Review by JovanGerb — COMMENTED** [review]
Could I ask for a follow up PR, where you carefully go through these changes again? It seems this PR was not reviewed carefully enough.

File: Mathlib/RingTheory/Localization/Submodule.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Submodule.lean:185]: I was searching for `@[mono]` exactly
